US04276295
To a mixture consisting of 1 g of 2-amino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid, 20 ml of dry benzene, and 0.7 ml of pyridine in a flask cooled with ice water was added dropwise with stirring a solution of 450 mg of acetyl chloride in 5 ml of benzene. The reaction mixture was stirred overnight, and then shaken with dilute hydrochloric acid. The layers were separated. The acidic aqueous layer was extracted with ethyl acetate, and the combined organic extracts were washed with water, and dried over sodium sulfate. The solvent was removed by distillation. The residue was recrystallized from ethyl acetate to afford 0.84 g of 2-acetylamino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid melting at 164° C.

reactant | 2-amino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid | 1 g | NC1=C(C(=O)O)C=C(C(=C1C)C(=O)OCC)C | C12H15NO4
reactant | pyridine | 0.7 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 450 mg | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-acetylamino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid | 0.84 g | C(C)(=O)NC1=C(C(=O)O)C=C(C(=C1C)C(=O)OCC)C | C14H17NO5
